US04748249
20.9 g (0.13 mole) of bromine are added dropwise to 27 g (0.13 mole) of 5-bromo-3,3-dimethyl-2-hexanone in 50 ml of chloroform at room temperature. The mixture is subsequently stirred at room temperature for 30 minutes, washed with water, dried over sodium sulphate and concentrated in vacuo. 36.9 g (99% of theory) of 1,5-dibromo-3,3-dimethyl-2-hexanone of refractive index nD20 =1.5015 are obtained.

reactant | bromine | 0.13 mole, 20.9 g | BrBr | Br2
reactant | 5-bromo-3,3-dimethyl-2-hexanone | 0.13 mole, 27 g | BrC(CC(C(C)=O)(C)C)C | C8H15BrO
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,5-dibromo-3,3-dimethyl-2-hexanone | 36.9 g, 99% | BrCC(C(CC(C)Br)(C)C)=O | C8H14Br2O
